US09102614B2
Preparation of 2-tert-butoxy-2-(1-(4-chlorophenyl)-3,5-dimethylnaphthalen-2-yl)acetic acid (40):
To a solution of ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3,5-dimethylnaphthalen-2-yl)acetate (32 mg, 0.075 mmol) in tetrahydrofuran: ethanol:water (2:2:1, 3 mL) was added lithium hydroxide (9 mg, 0.377 mmol) and the reaction was heated to 50° C. overnight. The reaction was purified by reverse phase HPLC (Gemini, 40-100% ACN/H2O+0.1% TFA). The product was lyophilized to give a white powder (16.8 mg). 1H-NMR: 400 MHz, (CD3OD) δ: 7.86 (s, 1H), 7.54 (m, 3H), 7.29 (m, 2H), 7.16 (t, J=8.8 Hz, 1H), 7.08 (d, J=8.8 Hz, 1H), 5.17 (s, 1H), 2.69 (s, 3H), 2.65 (s, 3H), 0.98 (s, 9H). LCMS-ESI− (m/z): [M−H]− calcd for C24H24ClO3: 395.15; found: 394.97.

reactant | ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3,5-dimethylnaphthalen-2-yl)acetate | 0.075 mmol, 32 mg | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC(=C2C=C1C)C)C1=CC=C(C=C1)Cl | C26H29ClO3
reactant | lithium hydroxide | 0.377 mmol, 9 mg | [OH-].[Li+]
solvent | tetrahydrofuran ethanol water | 3 mL | O1CCCC1.C(C)O.O
product | 2-tert-butoxy-2-(1-(4-chlorophenyl)-3,5-dimethylnaphthalen-2-yl)acetic acid | 16.8 mg | C(C)(C)(C)OC(C(=O)O)C1=C(C2=CC=CC(=C2C=C1C)C)C1=CC=C(C=C1)Cl | C24H25ClO3
